US07728025B2
(Step 2) Production of 5-(2,5-difluoro-phenoxy)-2-pyrazin-2-yl-6-(6-methanesulfonyl-pyridin-3-yloxy)-1H-benzimidazole
15 mg of 2,5-difluoro-phenol and 28 mg of cesium carbonate were added to an N-methylpyrrolidinone (0.5 ml) solution of 26 mg of pyrazine-2-carboxylic acid (5-fluoro-4-(6-methanesulfonyl-pyridin-3-yloxy)-2-nitro-phenyl)-amide obtained in (step 1), and the reaction liquid was stirred at 90° C. for 15 minutes, and 100 mg of tin(II) chloride dihydrate was added to the reaction liquid. The reaction liquid was stirred at 90° C. for 1 hour, and ethyl acetate and aqueous saturated sodium bicarbonate were added to it. The deposit was removed through filtration, the solvent was evaporated away under reduced pressure, and the residue was purified through reversed-phase middle-pressure liquid chromatography [ODS-AS-360-CC (by YMC), mobile phase: water-acetonitrile-0.1% trifluoroacetic acid]. The solvent of the resulting fraction was diluted with ethyl acetate, washed with aqueous saturated sodium bicarbonate, and dried with anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure to obtain the entitled compound as a pale yellow solid.

reactant | 2,5-difluoro-phenol | 15 mg | FC1=C(C=C(C=C1)F)O | C6H4F2O
reactant | cesium carbonate | 28 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | pyrazine-2-carboxylic acid (5-fluoro-4-(6-methanesulfonyl-pyridin-3-yloxy)-2-nitro-phenyl)-amide | 26 mg | FC=1C(=CC(=C(C1)NC(=O)C1=NC=CN=C1)[N+](=O)[O-])OC=1C=NC(=CC1)S(=O)(=O)C | C17H12FN5O6S
reactant | tin(II) chloride dihydrate | 100 mg | O.O.[Sn](Cl)Cl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N-methylpyrrolidinone | 0.5 ml | CN1C(CCC1)=O | C5H9NO
product | 5-(2,5-difluoro-phenoxy)-2-pyrazin-2-yl-6-(6-methanesulfonyl-pyridin-3-yloxy)-1H-benzimidazole | FC1=C(OC2=CC3=C(NC(=N3)C3=NC=CN=C3)C=C2OC=2C=NC(=CC2)S(=O)(=O)C)C=C(C=C1)F | C23H15F2N5O4S
